Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
aphasia, right arm weakness
 
Major Surgical or Invasive Procedure:
received tpa prior to transfer
 
History of Present Illness:
___ is a ___ year old left handed male who presents 
as
transfer from ___ after presenting there with aphasia and right
arm weakness found to have left ICA occlusion now status post 
tPA
and transferred to ___ for further management. 

Patient reports he has overall been feeling well recently. He
recently went ___ for the last week and a half on
vacation with his family. He was very active, riding jet skis,
etc. He came back early this week and helped his son move into
his dorm in ___. He went back to work yesterday which
was stressful as he his ___ owner of a ___. Over 
the
past 2 days he has had some slight left frontal pressure-like
headache which he has been treating with intermittent ibuprofen
and essentially had resolved.

He woke up this morning around 6A and he again had the slight
left frontal pressure-like headache. He started to answer emails
at his computer and drank some coffee. He talked to his wife
around ___. He poured some cereal in a bowel because he was
going to eat and then realized he had to go to the bathroom so 
he
did not pour the milk. He went into the bathroom and had a bowel
movement. He did not strain with this. When he tried to get up
off the toilet he remembers thinking "this feels weird". He went
to pull up his pants and his right arm would not move to pull up
his pants. He then slowly collapsed to the floor. He felt
somewhat confused per him and couldn't grasp what was happening.
He was able to say, "I need some help in here". He could hear 
his
cat scratching at the door trying to get into the bathroom.

His wife came in the bathroom and said his face looked droopy
(unclear which side). He felt like he understood everything she
said to him but he was having trouble getting out words at 
times.
He told her she should call EMS. He also asked her for water but
stayed on the ground. When he grabbed the water cup from her he
ended up dropping it from his right hand and his right hand felt
weak. He also thought his left face and left arm felt numb like
after getting novicaine. He had no changes in his vision,
dizziness, slurred speech. He was unable to walk so stayed on 
the
ground.

EMS arrived and took him to ___ by 8:10. His NIHSS was 4 there
for -2 LOC, -1 left sensory, -1 aphasia. He had CT which showed
no hemorrhage and CTA which showed L ICA occlusion. He was given
tPA (total 73.6 mg) with bolus beginning at 8:47. He reportedly
worsened about 45 minutes later with right arm and face 
weakness.
It is unclear what his blood pressure was at that time. However,
after being flat with fluids he improved to NIHSS 3. He was
transferred to ___.

On arrival to ___ he just reports mild left frontal headache.
He is still having resolving numbness of left face and left arm.
He does not feel weak at all and notices only mild issue with
naming. 

ROS: 

On neurological review of systems, the patient denies difficulty
comprehending speech, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. No bowel or bladder incontinence or 

On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.
 
Past Medical History:
HLD
 
Social History:
___
Family History:
No strokes, seizures, blood clots
Father - had dementia
Brother- has porcine heart valve (this brother is a neuro___)
Other brother- ?afib
 
Physical ___:
ON ADMISSION
Vitals: T: 98 BP: 161/82 HR: 90  RR: 18  SaO2: 100%
General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to ___ (took him
several seconds to get this, ___ (off by 2 days).
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is mostly fluent.
There were 2 occasions of decreased fluency with pausing, "um"..
but these resolved. There were several paraphasic errors. He
could name most items on stroke card except for feather (said,
"it's on a bird"... I know what it is but can't say it).   Able
to read without difficulty. No dysarthria. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.  Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.

V: Facial sensation decreased on left cheek.

VII: Slight right NLFF, symmetric activation  

IX, X: Palate elevates symmetrically.

XI: ___ strength in trapezii bilaterally.

XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, proprioception throughout.
There is dec pin (95%) on left face and left arm. No extinction
to DSS. 

-Reflexes:
  [___] [Pat] [Ach]
L   2     2      3     2
R   2    2      3     2 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: did not test given perfusion dependent

Discharge neurological exam:
Neurologic:
-Mental Status: Alert, oriented to ___, date, self. Intact 
naming to high and low frequency objects, with no decreased 
fluency noted. Able to read without difficulty. Ability to 
text/write fluently improving. No dysarthria. Able to follow 
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. 
V: Facial sensation decreased on left cheek.
VII: Subtle right NLFF with symmetric activation on smile, 
symmetric forehead raise  
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions 
bilaterally.
 
-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Intact to light touch bilaterally with no extinction 
to DSS. 

-Reflexes:
deferred

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: narrow based gait, ambulating independently without 
unsteadiness

 
Pertinent Results:
___ 11:45AM BLOOD WBC-9.6 RBC-4.45* Hgb-13.8 Hct-40.2 
MCV-90 MCH-31.0 MCHC-34.3 RDW-11.7 RDWSD-38.3 Plt ___
___ 11:45AM BLOOD Neuts-86.3* Lymphs-7.9* Monos-4.8* 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-8.26* AbsLymp-0.76* 
AbsMono-0.46 AbsEos-0.03* AbsBaso-0.04
___ 11:45AM BLOOD ___ PTT-24.5* ___
___ 11:45AM BLOOD Glucose-101* UreaN-14 Creat-0.9 Na-140 
K-4.6 Cl-105 HCO3-23 AnGap-12
___ 11:45AM BLOOD ALT-35 AST-31 AlkPhos-61 TotBili-1.1
___ 11:45AM BLOOD Lipase-12
___ 11:45AM BLOOD cTropnT-<0.01
___ 01:20AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.1 Cholest-211*
___ 12:07PM BLOOD %HbA1c-5.6 eAG-114
___ 01:20AM BLOOD Triglyc-122 HDL-68 CHOL/HD-3.1 
LDLcalc-119
___ 01:20AM BLOOD TSH-7.6*
___ 01:20AM BLOOD Free T4-1.1
___ 11:45AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:43PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ Imaging CAROTID SERIES COMPLETE
Right ICA no  stenosis.
Left ICA dissection as noted on recent MRI from ___  There 
is markedly
diminished flow within the visualized portions of the ICA in the 
site of the
dissection.

___ Imaging CT HEAD W/O CONTRAST
 
1. Evolving acute left MCA territory infarct, similar in size in 
size compared
to prior with stable sulcal effacement.  No evidence of acute 
intracranial
hemorrhage.  Previously seen hyperdense punctate focus in the 
left insula is
no longer seen.

___ Imaging MRA NECK W&W/O CONTRAST
1. Narrowing and diminished flow enhancement involving the left 
C1 ICA with
associated T1 eccentric mural hyperintense signal compatible 
with mural
thrombus and dissection.
2. Asymmetric small caliber of the petrous and cavernous segment 
of the left
ICA.

 
Brief Hospital Course:
___ w/ hx of HLD who presents as a transfer from ___ after 
presenting with aphasia and right arm weakness.

#acute ischemic stroke:
#ICA dissection
CTA head and neck at ___ demonstrated a left frontotemporal lobe 
infarct and right ICA occlusion. He received TPA at 08:47 on 
___, and then was transferred to ___ for further management. 
He was initially admitted to the neuro ICU for observation, then 
transferred to ___ after 24 hours of clinical stability. MRA of 
the neck with fat sat showed left ICA dissection, which is the 
likely source of embolism underlying his stroke. Carotid 
ultrasound corroborated this finding. The patient reported that 
he had recently been in a jetski trip, during which he sustained 
a whiplash injury which was thought to be the mechanism of 
dissection. The patient's aphasia and right arm arm weakness 
gradually improved. The patient's hospitalization was 
complicated by episodes of right gaze deviation with right 
facial numbness, which was thought to be secondary to seizure 
versus flow-dependent phenomenon, as the patient complained of 
the symptoms upon sitting up or standing. The patient was 
monitored on continuous continuous video EEG, which did not show 
any epileptiform discharges. His activity was liberalized, with 
no progression of symptoms with increased activity. The patient 
was eventually started on apixaban 5mg PO BID prior to 
discharge, with a plan for continuation for at least 3 months, 
and determination of therapy duration to be decided at stroke 
follow up appointment with Dr. ___. Transitioned home 
simvastatin 10 mg to atorvastatin 40 mg QHS given elevated LDL 
at 117, though atherosclerosis was not thought to be the 
causative mechanism of stroke in this case.

MEDICATION CHANGES
- Started apixaban 5 mg BID
- Transitioned home simvastatin 10 mg to atorvastatin 40 mg QHS.

Transitional issues
[] Continue apixaban for at least 3 months. Final duration of 
therapy to determined on follow up.
[] Please continue to monitor patient's cholesterol.
[] Please continue to evaluate any further episodes of right 
gaze deviation with associated right facial numbness. If these 
episodes continue and do not appear to be positional, then 
consider repeat outpatient EEG and/or empiric AED therapy for 
possible seizures.

=====

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 119) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
Propecia- unknown dose
simvastatin 10 mg daily
 
Discharge Medications:
1.  Apixaban 5 mg PO/NG BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Nightly Disp #*30 
Tablet Refills:*0 
3.  Finasteride 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of right arm weakness and 
speech difficulty resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

-High cholesterol

We are changing your medications as follows:
- Starting apixaban 5 mg twice daily 
- Switched simvastatin 10 mg to atorvastatin 40 mg daily 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___